* D:\Downloads\jkff-counter4.asc
* Generated by LTspice 24.1.10 for Windows.
X§JKFF_U1 data_in CLK data_in Q1 Q1_prime 0 0 NC_01 JKFLOP Vhigh=1 Vlow=0 td=10n ;§pnba J)CLK)K)Q)_Q)PRE)CLR)RTN
X§JKFF_U2 J2 CLK J2 Q2 Q2_prime 0 0 NC_02 JKFLOP Vhigh=1 Vlow=0 td=10n ;§pnba J)CLK)K)Q)_Q)PRE)CLR)RTN
X§JKFF_U3 J3 CLK J3 Q3 Q3_prime 0 0 NC_03 JKFLOP Vhigh=1 Vlow=0 td=10n ;§pnba J)CLK)K)Q)_Q)PRE)CLR)RTN
X§JKFF_U4 J4 CLK J4 Q4 Q4_prime 0 0 NC_04 JKFLOP Vhigh=1 Vlow=0 td=10n ;§pnba J)CLK)K)Q)_Q)PRE)CLR)RTN
V1 CLK 0 PULSE(0 1 0 1n 1n 20n 40n)
VD data_in 0 1
R1 N005 Q1 60m
R2 N006 Q2 60m
R3 N007 Q3 60m
R4 P001 Q4 60m
R5 N003 N002 30m
R6 N004 N003 30m
R7 N001 N004 30m
R8 N002 0 60m
R9 Vout N001 56m
X§Uopamp N001 0 Vout opamp Aol=100K GBW=10Meg ;§pnba invin)noninvin)out
A1 P001 0 0 0 0 0 N001 0 BUF
A2 N007 0 0 0 0 0 N004 0 BUF
A3 N006 0 0 0 0 0 N003 0 BUF
A4 N005 0 0 0 0 0 N002 0 BUF
AND_A2 data_in Q1 0 0 0 0 J2 0 AND
AND_A3 J2 Q2 0 0 0 0 J3 0 AND
AND_A4 J3 Q3 0 0 0 0 J4 0 AND
.tran 5u
.include opamp.sub
.lib 0101.sub
.backanno
.end